US07737166B2
2-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-1,3-thiazole-4-carboxylic acid (#101)
Aqueous 1 N sodium hydroxide solution (225 μl, 0.225 mmol) was added to an ethanol (1.7 ml) solution of ethyl 2-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-1,3-thiazole-4-carboxylate (I-198) (87.0 mg, 0.173 mmol), followed by stirring in an oil bath at 45° C. for 1 hour. With cooling with ice, 1 N hydrochloric acid (225 μl, 0.225 mmol) was added to the reaction liquid, followed by concentration, under reduced pressure, and the obtained pale yellow solid was purified in slurry with a mixed solvent of ethanol:water=9:1 to obtain the entitled compound (50.0 mg, 59.7%) as a pale yellow solid.

reactant | sodium hydroxide | 0.225 mmol, 1 N, 225 μl | [OH-].[Na+]
reactant | ethyl 2-{4-cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-1,3-thiazole-4-carboxylate | 0.173 mmol, 87.0 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C=2SC=C(N2)C(=O)OCC)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C27H27N5O3S
reactant | hydrochloric acid | 0.225 mmol, 1 N, 225 μl | Cl | ClH
solvent | ethanol | 1.7 ml | C(C)O | C2H6O
product | 2-{4-Cyano-7-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-methyl-6-phenyl-1,3-benzoxazol-2-yl}-1,3-thiazole-4-carboxylic acid | 50.0 mg, 59.7% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C=2SC=C(N2)C(=O)O)N2C[C@H](CC2)N(C)C)C2=CC=CC=C2)C | C25H23N5O3S
